US04469408
4-(methacryloyloxy) ethoxy-4'-methoxybiphenyl is prepared from 4-methoxy-4'hydroxybiphenyl by reaction with ethylenechlorohydrine in aqueous-alcoholic potassium hydroxide solution and subsequent azeotropic esterification with methacrylic acid in chloroform, catalyzed by p-toluol-sulfonic acid. This substance is heated for 8 hours to 65° C. in a benzene solution under nitrogen in the presence of 1 mol percent 2.2-azoisobutylonitrile. The reaction product is dissolved in chloroform and precipitated in a mixture of acetone and methanol. A solution of the liquid-crystal polymer in N-methyl-pyrrolidone is applied via a rubber roller to a glass substrate provided with a conductor structure and dried at 100° C.

reactant | 4-methoxy-4'hydroxybiphenyl | COC1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H12O2
reactant | ethylenechlorohydrine | C(CO)Cl | C2H5ClO
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | potassium hydroxide | [OH-].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(methacryloyloxy) ethoxy-4'-methoxybiphenyl | C(C(=C)C)(=O)OCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OC | C19H20O4
